US04155913
2.2 g of 2-(2-acetylhydrazino)-7-chloro-5-(2-pyridyl)-3H-thieno[2,3-e]-1,4-diazepine are refluxed for 2 hours in 120 ml of absolute xylene. The solution is then cooled and the precipitated impurities are filtered off. The solvent is evaporated under reduced pressure and there is obtained 2-chloro-9-methyl-4-(2-pyridyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine in the form of a crystalline product which, after recrystallization from ethyl acetate, melts at 174°-176° C.

reactant | 2-(2-acetylhydrazino)-7-chloro-5-(2-pyridyl)-3H-thieno[2,3-e]-1,4-diazepine | 2.2 g | C(C)(=O)NNC=1CN=C(C2=C(N1)SC(=C2)Cl)C2=NC=CC=C2 | C14H12ClN5OS
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-chloro-9-methyl-4-(2-pyridyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=NC=CC=C3 | C14H10ClN5S
